US05919807
a) 2-Chloro-6-(2-diethylamino-ethoxy)-benzothiazole
3.15 g (16.7 mmol) of 2-chloro-6-hydroxy-benzothiazole are dissolved in 50 ml of dimethylformamide and after the addition of 5.68 g (33 mmol) of 2-diethylamino-ethyl chloride-hydrochloride and 8.3 g (60 mmol) of potassium carbonate the mixture was stirred for 20 hours at ambient temperature. It was then added to water and extracted with ethyl acetate. The extracts are dried and evaporated down. The evaporation residue is purified by column chromatography on neutral aluminium oxide (eluant: petroleum ether/ethyl acetate=6:1). Yield: 3.9 g (81.7% of theory), oil, 1H-NMR spectrum (200 MHz, CDCl3, signals at ppm): 1.08 (t, 6H); 2.65 (q, 4H); 2.9 (t, 2H); 4.09 (t, 2H); 7.08 (dd, 1H); 7.24 (d, 1H); 7.8 (d, 1H).

reactant | 2-chloro-6-hydroxy-benzothiazole | 16.7 mmol, 3.15 g | ClC=1SC2=C(N1)C=CC(=C2)O | C7H4ClNOS
reactant | 2-diethylamino-ethyl chloride-hydrochloride | 33 mmol, 5.68 g | Cl.C(C)N(CCCl)CC
reactant | potassium carbonate | 60 mmol, 8.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-6-(2-diethylamino-ethoxy)-benzothiazole | ClC=1SC2=C(N1)C=CC(=C2)OCCN(CC)CC | C13H17ClN2OS
